US08802864B2
b) ethyl [(3R)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetate
In a round bottom flask, a solution of 1,1-dimethylethyl (3R)-3-[2-(ethyloxy)-2-oxoethyl]-1-pyrrolidinecarboxylate (2.08 mmol) in 4M HCl in dioxane (10 mL, 40 mmol) was stirred at room temperature for 1 h. Analysis of an aliquot by LCMS confirmed complete removal of the BOC group from the starting material. The reaction was concentrated in vacuo to give a pale yellow liquid, which was dissolved in diethyl ether and concentrated to dryness in vacuo to yield a white solid. A solution of this intermediate as the HCl salt in dichloromethane (100 mL) was treated with N,N-diisopropylethylamine (4.16 mmol) and stirred for 5 min at room temperature. The yellow solution was treated with cyclopropanecarbonyl chloride (2.287 mmol) dropwise by syringe. The solution was allowed to warm to room temperature and stirred for 1 h. The reaction was diluted with dichloromethane (100 mL) and was washed with water, dried over magnesium sulfate, and concentrated in vacuo to give the title compound as a yellow oil (quantitative). MS(ES)+ m/e 226.1 [M+H]+.

reactant | 1,1-dimethylethyl (3R)-3-[2-(ethyloxy)-2-oxoethyl]-1-pyrrolidinecarboxylate | 2.08 mmol | C(C)OC(C[C@@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C13H23NO4
reactant | dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
reactant | N,N-diisopropylethylamine | 4.16 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclopropanecarbonyl chloride | 2.287 mmol | C1(CC1)C(=O)Cl | C4H5ClO
solvent | HCl | 4M | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | ethyl [(3R)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetate | C1(CC1)C(=O)N1C[C@H](CC1)CC(=O)OCC | C12H19NO3
